US05962490
1-Methylindole-2-sulfonyl chloride was prepared by the method of Example 34 with 1-methylindole (7.8 mmols, 1.0 ml), t-BuLi (1.7 m, 9.4 mmols, 5.5 ml), sulfur dioxide, NCS (8.6 mmols, 1.2 g) and THF (15 ml). Flash chromatography (2% ethyl acetate/hexanes) provided 0.66 g (36%) of a yellow solid.

reactant | 1-methylindole | 7.8 mmols, 1.0 ml | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | t-BuLi | 9.4 mmols, 5.5 ml | [Li]C(C)(C)C
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | NCS | 8.6 mmols, 1.2 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Methylindole-2-sulfonyl chloride | CN1C(=CC2=CC=CC=C12)S(=O)(=O)Cl | C9H8ClNO2S
